US07495007B2
To a solution of E/Z-2-[4-bromo-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-2-methyl-propionic acid ethyl ester (5 g, 11 mmol) in dichloromethane (50 mL) at r.t was added di-tert-butyl-dicarbonate (2.4 g, 11 mmol), followed by the addition of 4-dimethylaminopyridine (1 g, 8.2 mmol). The reaction mixture was stirred at r.t. for 2 h, washed with aqueous HCl solution (0.5M) and water. The organic layer was separated, dried over Na2SO4, concentrated to give E/Z 3-[5-bromo-2-(1-ethoxycarbonyl-1-methyl-ethoxy)-benzylidene]-6-chloro-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester as a yellow oil (5.5 g, 88%).

reactant | Z-2-[4-bromo-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-2-methyl-propionic acid ethyl ester | 11 mmol, 5 g | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)Br)\C=C\1/C(NC2=CC(=CC=C12)Cl)=O)=O | C21H19BrClNO4
reactant | di-tert-butyl-dicarbonate | 11 mmol, 2.4 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 8.2 mmol, 1 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 3-[5-bromo-2-(1-ethoxycarbonyl-1-methyl-ethoxy)-benzylidene]-6-chloro-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 5.5 g, 88% | C(C)(C)(C)OC(=O)N1C(C(C2=CC=C(C=C12)Cl)=CC1=C(C=CC(=C1)Br)OC(C)(C)C(=O)OCC)=O | C26H27BrClNO6
